US07214747B2
Following the procedure described for the synthesis of 3 (method A), 15.81 g (0.081 mol) of 2-bromo-1H-indene, 9.54 g (0.081 mol) of iPr2PH, 13.9 ml (10.09 g, 0.100 mol) of Et3N, and 2.95 g (2.55 mmol) of Pd(PPh3)4 in 60 ml of toluene gave 1H-Inden-2-yl(diisopropyl)phosphine. The crude product was distilled in vacuum (104–106° C./2 mm). Yield 14.8 g (80%) of colorless oil of 1H-Inden-2-yl(diisopropyl)phosphine, 4.

reactant | 2-bromo-1H-indene | 0.081 mol, 15.81 g | BrC=1CC2=CC=CC=C2C1 | C9H7Br
reactant | iPr2PH | 0.081 mol, 9.54 g | P(C(C)C)C(C)C | C6H15P
reactant | Et3N | 0.100 mol, 13.9 ml, 10.09 g | CCN(CC)CC | C6H15N
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 2.55 mmol, 2.95 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1H-Inden-2-yl(diisopropyl)phosphine | C1C(=CC2=CC=CC=C12)P(C(C)C)C(C)C | C15H21P
